US07723329B2
Step 5) 4-(2-Azido-ethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole
A mixture of 4-(2-chloro-ethoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole (0.2 g, 0.5 mmoles) and sodium azide (0.04 g, 0.62 mmoles) in DMSO (2 mL) was stirred together in a round bottom flask under nitrogen at 90° C. for 3 hours. Reaction mixture was cooled to room temperature, diluted with water, extracted with EtOAC, washed with water (2×), brine (1×), dried over Na2SO4, and concentrated under vacuum. Crude compound was purified by normal phase HPLC using as eluent 40% EtOAc/hexane to afford the title compound as an off white solid (0.17 g, 0.45 mmoles).

reactant | 4-(2-chloro-ethoxy)-3-(naphthalene-1-sulfonyl)-1-H-indazole | 0.5 mmoles, 0.2 g | ClCCOC1=C2C(=NNC2=CC=C1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C19H15ClN2O3S
reactant | sodium azide | 0.62 mmoles, 0.04 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(2-Azido-ethoxy)-3-(naphthalene-1-sulfonyl)-1H-indazole | N(=[N+]=[N-])CCOC1=C2C(=NNC2=CC=C1)S(=O)(=O)C1=CC=CC2=CC=CC=C12 | C19H15N5O3S
